US06291452B1
A mixture of N-[(3RS)-1-(2-ethoxycabonylmethoxyphenyl)-carbonylmethyl-2,3-dihydro-5-(2-fluorophenyl)-9-methyl-2-oxo-1H-1,4-benzodiazepin-3-yl]-N′-{3-[1-(triphenylmethyl)tetrazol-5-yl]phenyl}urea (196 mg) and 1N NaOH in 1,2-dimethoxyethane (2 ml) was stirred at room temperature overnight. 4N-HCl in ethyl acetate (2 ml) was added to the reaction mixture and stirred at room temperature for three days. Ethyl acetate and water were added to the reaction mixture. The separated organic layer was washed with water and brine successively, and dried over magnesium sulfate. Removal of the solvent in vacuo afforded N-[(3RS)-2,3-dihydro-5-(2-fluorophenyl)-1-(2-carboxymethoxyphenyl)-carbonylmethyl-9-methyl-2-oxo-1H-1,4-benzodiazepin-3-yl]-N′-[3-(tetrazol-5-yl)phenyl]urea (66.0 mg, 47.4%).

reactant | N-[(3RS)-1-(2-ethoxycabonylmethoxyphenyl)-carbonylmethyl-2,3-dihydro-5-(2-fluorophenyl)-9-methyl-2-oxo-1H-1,4-benzodiazepin-3-yl]-N′-{3-[1-(triphenylmethyl)tetrazol-5-yl]phenyl}urea | 196 mg | C(C)OC(=O)COC1=C(C=CC=C1)N1C(C(N=C(C2=C1C(=CC=C2)C)C2=C(C=CC=C2)F)(NC(=O)NC2=CC(=CC=C2)C2=NN=NN2C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C=O)=O | C55H43FN8O6
reactant | NaOH | 1N | [OH-].[Na+]
reactant | HCl | Cl | ClH
reactant | water | O | H2O
solvent | 1,2-dimethoxyethane | 2 ml | COCCOC | C4H10O2
solvent | ethyl acetate | 2 ml | C(C)(=O)OCC | C4H8O2
product | N-[(3RS)-2,3-dihydro-5-(2-fluorophenyl)-1-(2-carboxymethoxyphenyl)-carbonylmethyl-9-methyl-2-oxo-1H-1,4-benzodiazepin-3-yl]-N′-[3-(tetrazol-5-yl)phenyl]urea | 66.0 mg, 47.4% | FC1=C(C=CC=C1)C1=NC(C(N(C2=C1C=CC=C2C)C2=C(C=CC=C2)OCC(=O)O)=O)(NC(=O)NC2=CC(=CC=C2)C2=NN=NN2)C=C=O | C34H25FN8O6
